US07834051B2
tert-butyl(3-chlorophenyl)[(1S)-2-hydroxy-1-methylethyl]carbamate
A solution of N-[(1S)-2-(tert-butyldimethylsilyloxy)-1-methylethyl]-3-chloroaniline (2.66 g) in tetrahydrofuran (20 mL) was cooled using dry ice/acetone under a nitrogen atmosphere, and 1.6 mol/L n-butyllithium-hexane solution (6.65 mL) was added. The mixture was stirred at the same temperature for 30 min, a solution of di-tert-butyl-dicarbonate (2.52 g) in tetrahydrofuran (5 mL) was added. The reaction solution was warmed to room temperature and stirred for 4 hr, water (50 mL) was added, and the mixture was extracted with ethyl acetate. The obtained organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=0→5%), the obtained oil was dissolved in tetrahydrofuran (25 mL). 1.0 mol/L Tetrabutylammonium fluoride/tetrahydrofuran solution (11.5 mL) was added to the reaction solution, and the mixture was stirred at room temperature for 4 hr. Water (50 mL) was added to the reaction solution, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=0→40%) to give the title compound as a colorless oil (yield: 1.61 g, 64%).

reactant | N-[(1S)-2-(tert-butyldimethylsilyloxy)-1-methylethyl]-3-chloroaniline | 2.66 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)NC1=CC(=CC=C1)Cl | C15H26ClNOSi
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | di-tert-butyl-dicarbonate | 2.52 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-butyl(3-chlorophenyl)[(1S)-2-hydroxy-1-methylethyl]carbamate | yield: 1.61 g, 64% | C(C)(C)(C)OC(N([C@H](CO)C)C1=CC(=CC=C1)Cl)=O | C14H20ClNO3
